US04749713
A solution containing α-bromo-4-toluonitrile (19.6 g) and 1,2,4-triazole (30.5 g) in a mixture of chloroform (250 mL) and acetonitrile (50 mL) is stirred at reflux for 15 hours. The solution is cooled and washed with 3% aqueous sodium bicarbonate (200 mL) and the organic solution is then dried (MgSO4) and evaporated. The residue is chromatographed on silica gel (300 g). Elution with chloroform/isopropanol (10:1) affords 4-[1-(1,2,4-triazolyl)methyl]-benzonitrile, which forms a hydrochloride salt, m.p. 200°-205°, when its solution in ethyl acetate is treated with ethereal HCl.

reactant | α-bromo-4-toluonitrile | 19.6 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | 1,2,4-triazole | 30.5 g | N1N=CN=C1 | C2H3N3
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-[1-(1,2,4-triazolyl)methyl]-benzonitrile | N1N=C(N=C1)CC1=CC=C(C#N)C=C1 | C10H8N4
